US09056859B2
A mixture of ethyl (6-nitropyridin-3-yl)acetate (0.9 g, 4.28 mmol), Pd/C (10%, 0.1 g) in MeOH (50 mL) was stirred for 2 hours under H2 atmosphere at room temperature. The mixture was filtered and concentrated to give ethyl (6-aminopyridin-3-yl)acetate. 1H-NMR (400 MHz, CDCl3) δ 7.93 (s, 1H), 7.38 (dd, J=2.4 Hz, 8.4 Hz, 1H), 6.4 6(d, J=8.4 Hz, 1H), 4.48 (br, 2H), 4.13 (q, J=7.2 Hz, 2H), 3.44 (s, 2H), 1.23 (t, J=7.2 Hz, 3H).

reactant | ethyl (6-nitropyridin-3-yl)acetate | 4.28 mmol, 0.9 g | [N+](=O)([O-])C1=CC=C(C=N1)CC(=O)OCC | C9H10N2O4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.1 g | [Pd] | Pd
product | ethyl (6-aminopyridin-3-yl)acetate | NC1=CC=C(C=N1)CC(=O)OCC | C9H12N2O2
